US07569536B2
4-Nitrobenzoyl chloride (64.2 mg, 0.345 mmol, commercially available product) and triethylamine (120 μl, 0.859 mmol) were sequentially added at 0° C. to a dichloromethane (2 ml) solution of 2-(1-piperidinyl)-5-(trifluoromethyl)aniline (51.2 mg, 0.209 mmol), obtained as described in Referential Example 1-2. The resulting mixture was warmed to room temperature and stirred for 60 hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30 g, hexane/ethyl acetate=8/1-6/1). Thus, N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]-4-nitrobenzamide (GIF-0345) (46.3 mg, 56.3%) was yielded as a yellow solid.

reactant | 4-Nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | triethylamine | 0.859 mmol, 120 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
reactant | 2-(1-piperidinyl)-5-(trifluoromethyl)aniline | 0.209 mmol, 51.2 mg | N1(CCCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C12H15F3N2
solvent | Water | O | H2O
product | N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]-4-nitrobenzamide | N1(CCCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H18F3N3O3
